US07053085B2
Preparation of (4R)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,3-oxazinan-2-one
To a solution of (3R)-3-amino-4-{[tert-butyl(dimethyl)silyl]oxy}butan-1-ol (2.63 g, 12 mmol) in DCM (100 mL) at 0° C. was added pyridine (3 mL) followed by phosgene (20% solution in toluene, 1.9 M, 8.5 mL) dropwise and the mixture was stirred for 30 min and allowed to warm to rt, and quenched with water. The layers were separated and the water layer extracted with DCM once. The organic layers were dried over MgSO4, filtered and concentrated. The desired product (4R)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,3-oxazinan-2-one was obtained from crystallization from ether/hexanes at −20° C. as a light yellow solid. 1H NMR (400 MHz, CDCl3) 5.52 (br s, 1H), 4.38–4.33 (m, 1H), 4.28–4.22 (m, 1H), 3.70–3.59 (m, 2H), 3.46 (t, 1H), 1.97–1.93 (m, 1H), 1.72–1.67 (m, 1H), 0.91 (s, 9H), 0.90 (s, 6H).

reactant | (3R)-3-amino-4-{[tert-butyl(dimethyl)silyl]oxy}butan-1-ol | 12 mmol, 2.63 g | N[C@H](CCO)CO[Si](C)(C)C(C)(C)C | C10H25NO2Si
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 1.9 M, 8.5 mL | C(=O)(Cl)Cl | CCl2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (4R)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,3-oxazinan-2-one | [Si](C)(C)(C(C)(C)C)OC[C@@H]1NC(OCC1)=O | C11H23NO3Si
